US08648066B2
To a solution of 5-bromo-3-nitropyridin-2-amine (218 mg, 1 mmol) in THF (5 mL) was added DMAP (183 mg, 1.5 mmol) and di-tert-butyl dicarbonate (655 mg, 3 mmol). After stirring 40 min at rt, the volatile materials were removed in vacuo, and the resulting residue was purified by flash chromatography (gradient, 100% hexanes to 70% hexanes:30% ethyl acetate). The isolated material indicated the addition of two Boc groups by 1H NMR. This material was dissolved in ethyl acetate (8 mL) and was treated with excess N,N-dimethylethylenediamine. After stirring for 17 h at rt, the reaction mixture was diluted with ethyl acetate. The resulting solution was washed with aqueous citric acid (10%) followed by water, dried over magnesium sulfate, filtered, and concentrated in vacuo to provide tert-butyl 5-bromo-3-nitropyridin-2-ylcarbamate (270 mg, 0.85 mmol, 85% yield) as an orange solid. 1H NMR (400 MHz, CDCl3) δ 9.48 (br s, 1H), 8.74 (d, 1H), 8.63 (d, 1H), 1.56 (s, 9H); MS (EI) for C10H12BrN3O4: 316, 318 (Br isotopes, M−H).

reactant | 5-bromo-3-nitropyridin-2-amine | 1 mmol, 218 mg | BrC=1C=C(C(=NC1)N)[N+](=O)[O-] | C5H4BrN3O2
reactant | di-tert-butyl dicarbonate | 3 mmol, 655 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 1.5 mmol, 183 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 5-bromo-3-nitropyridin-2-ylcarbamate | 0.85 mmol, 270 mg, 85% yield | BrC=1C=C(C(=NC1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C10H12BrN3O4
